US07179812B2
2-(4-[1,2,3]Triazol-1-yl-butyl)-pyrimidine-5-boronic acid (0.099 g, 0.40 mmol) is dissolved in THF (0.5 ml) and water (0.5 ml) and hydrogen peroxide (30 wt %) (0.054 g, 0.48 mmol) is added. After stirring the solution at r.t. for 2 h, brine (3 ml) is added and the mixture is extracted with THF (2×10 ml). The combined organic phases are dried over MgSO4 and concentrated in vacuo yielding 2-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidin-5-ol as a off-white solid. Yield 85 mg (97%).

reactant | 2-(4-[1,2,3]Triazol-1-yl-butyl)-pyrimidine-5-boronic acid | 0.40 mmol, 0.099 g | N1(N=NC=C1)CCCCC1=NC=C(C=N1)B(O)O | C10H14BN5O2
reactant | water | 0.5 ml | O | H2O
reactant | hydrogen peroxide | 0.48 mmol, 0.054 g | OO | H2O2
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | brine | 3 ml | [Cl-].[Na+].O
product | 2-(4-[1,2,3]triazol-1-yl-butyl)-pyrimidin-5-ol | N1(N=NC=C1)CCCCC1=NC=C(C=N1)O | C10H13N5O
